US04806673
A process wherein a solventless mixture of Bisphenol A and cyanide ion in the form of sodium cyanide is heated in a closed vessel to about 185° C. and maintained at that temperature for about 20 hours to produce 4-(1-cyano-1-methylethyl)phenol with a conversion of about 100 percent and a selectivity of about 80 percent based on Bisphenol A.

reactant | Bisphenol A | OC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)O | C15H16O2
reactant | cyanide | [C-]#N
reactant | sodium cyanide | [C-]#N.[Na+]
product | 4-(1-cyano-1-methylethyl)phenol | C(#N)C(C)(C)C1=CC=C(C=C1)O | C10H11NO
